US04009208
93. N,N'-Nonamethylenebis(4-trifluoromethoxybenzamide)
m.p. 144°-145° C., 12.1 g., was prepared as in Example 1 using 24.6 of 4-trifluoromethoxybenzoyl chloride in 200 ml. ethylene dichloride, 7.9 g. of 1,9-nonanediamine, 60 ml. of 10% aqueous potassium hydroxide solution, 300 ml. of ethylene dichloride and recrystallization from acetonitrile.

reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 1,9-nonanediamine | C(CCCCCCCCN)N | C9H22N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Nonamethylenebis(4-trifluoromethoxybenzamide) | FC(OC1=CC=C(C(=O)NCCCCCCCCCNC(C2=CC=C(C=C2)OC(F)(F)F)=O)C=C1)(F)F | C25H28F6N2O4
